plaintext
* Differential Amplifier Circuit

VCC 3 0 DC <VCC_value>

Vin1 Vin1 0 DC <Vin1_value>
Vin2 Vin2 0 DC <Vin2_value>

RC1 3 Q1_col <RC_value>
RC2 3 Q2_col <RC_value>

Q1 Q1_col Vin1 P NPN_model
Q2 Q2_col Vin2 P NPN_model

IEE P 0 DC <IEE_value>

.model NPN_model NPN (elements if needed)

.end